US06235758B1
2-(3-Pyridyl)-thiazole-4-carbonyl azide (D15)
A suspension of 2-(3-pyridyl)-thiazole-4-carboxylic acid (0.824 g, 4 mmol) in dichloromethane-chloroform (30 ml-15 ml) was treated with trimethylamine (0.75 ml, 0.5 g, 5 mmol) and then iso-butyl chloroformate (0.65 ml, 0.68 g, 5 mmol). After 1 h the mixture was evaporated to dryness and the residue suspended in THF (30 ml) and a solution of sodium azide (0.46 g, 7 mmol) in water (10 ml) was added. After 1 h, the mixture was concentrated (rotary evaporator) and partitioned between dichloromethane and brine. The organic extract was washed with half-saturated brine, dried, and evaporated. Trituration with petroleum ether, filtration, and drying in vacuo (CAUTION—no heating) afforded the title compounds as a brown solid (0.37 g, 40%).

reactant | 2-(3-pyridyl)-thiazole-4-carboxylic acid | 4 mmol, 0.824 g | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)O | C9H6N2O2S
reactant | trimethylamine | 5 mmol, 0.75 ml, 0.5 g | CN(C)C | C3H9N
reactant | iso-butyl chloroformate | 5 mmol, 0.65 ml, 0.68 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 7 mmol, 0.46 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane chloroform | 30 ml-15 ml | ClCCl.C(Cl)(Cl)Cl
solvent | water | 10 ml | O | H2O
product | 2-(3-Pyridyl)-thiazole-4-carbonyl azide | 0.37 g, 40% | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)N=[N+]=[N-] | C9H5N5OS
